US07579369B2
Cyclopropylmethyl-5-(5-fluoro-2-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid (3,3,3-trifluoro-propyl)-amide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone as compound of formula S, cyclopropanemethylamine as R3—(CH2)m—NH2 and 3,3,3-trifluoro-N-propylamine as R1R2NH, MS (ISP) 399.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)F)OC | C9H8BrFO2
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
reactant | 3,3,3-trifluoro-N-propylamine | FC(CCN)(F)F | C3H6F3N
product | Cyclopropylmethyl-5-(5-fluoro-2-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid (3,3,3-trifluoro-propyl)-amide | FC(CCNC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)F)OC)CC1CC1)C)(F)F | C20H22F4N2O2
